US07612068B2
[(1-Hydroxymethyl-2-methyl-propyl)-methyl-amino]-acetic acid tert-butyl ester
{[1-(tert-Butyl-dimethyl-silanyloxymethyl)-2-methyl-propyl]-amino}-acetic acid tert-butyl ester (1.9 g, 6.1 mmol) and diisopropylethylamine (4.2 mL, 24 mmol) were dissolved in DMF (15 mL). A solution of MeI (0.45 mL, 7.3 mmol) in DMF (100 mL) was slowly added over 15 min. The reaction was stirred for 2½ h. The solvent was removed in vacuo. The residue product was dissolved in EtOAc (100 mL) and the solution was washed with water (20 mL). The organic phase was dried over magnesium sulfate, filtered and the filtrate was evaporated in vacuo. The residue was dissolved in acetonitrile (45 mL) and Et3N 3HF (2 mL, 12.3 mmol) was added. The reaction was stirred for 16 h. The solvent was removed in vacuo. The crude product was dissolved in EtOAc (100 mL) and washed with saturated sodium bicarbonate solution (25 mL) and saturated sodium chloride solution (25 mL). The organic phase was dried over magnesium sulfate and the solution was slowly filtered through 5 g of silica gel. The filtrate was evaporated in vacuo. Yield: 1.1 g, 78%.

reactant | {[1-(tert-Butyl-dimethyl-silanyloxymethyl)-2-methyl-propyl]-amino}-acetic acid tert-butyl ester | 6.1 mmol, 1.9 g | C(C)(C)(C)OC(CNC(C(C)C)C(O[SiH2]C(C)(C)C)(C)C)=O | C17H37NO3Si
reactant | diisopropylethylamine | 24 mmol, 4.2 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | MeI | 7.3 mmol, 0.45 mL | CI | CH3I
solvent | DMF | 15 mL | CN(C)C=O | C3H7NO
solvent | DMF | 100 mL | CN(C)C=O | C3H7NO
product | [(1-Hydroxymethyl-2-methyl-propyl)-methyl-amino]-acetic acid tert-butyl ester | C(C)(C)(C)OC(CN(C)C(C(C)C)CO)=O | C12H25NO3
